US06444615B1
n-Propyl isocyanate (1.0 g, 11.7 mmol) was added to a solution of 7-fluoro-6-amino-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one (0.20 g, 0.9 mmol) in dioxane (20 mL) with stirring. The reaction mixture was heated to 80° C. for 4 hours. More n-propyl isocyanate (0.43 g, 5 mmol) was added and the reaction mixture was maintained at 80° C. overnight. Then the solution was concentrated to dryness to afford N-n-propyl-N′-[7-fluoro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one-6-yl]urea as a crude intermediate (1.1 g). This was used for the next step without further purification.

reactant | n-Propyl isocyanate | 11.7 mmol, 1.0 g | C(CC)N=C=O | C4H7NO
reactant | 7-fluoro-6-amino-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one | 0.9 mmol, 0.20 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N | C11H9FN2O2
reactant | n-propyl isocyanate | 5 mmol, 0.43 g | C(CC)N=C=O | C4H7NO
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-n-propyl-N′-[7-fluoro-4-(2-propynyl)-2H-1,4-benzoxazin-3(4H)-one-6-yl]urea | C(CC)NC(=O)NC=1C(=CC2=C(N(C(CO2)=O)CC#C)C1)F | C15H16FN3O3
